2158-12-14 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2158-12-14**] 12:30 AM
   placed at outside institiution
 INVASIVE VENTILATION - START [**2158-12-14**] 01:12 AM
 EKG - At [**2158-12-14**] 02:43 AM
   - remains intubated
   - to MRI this AM
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Nausea/Vomiting
   Propoxyphene
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-12-14**] 04:12 AM
   Ampicillin/Sulbactam (Unasyn) - [**2158-12-14**] 04:53 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-12-14**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 79 (71 - 79) bpm
   BP: 112/72(79) {112/50(69) - 148/92(103)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
             2,546 mL
   PO:
             TF:
   IVF:
   546 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    307 mL
   Urine:
   307 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 13 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   11.0 g/dL
   128 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.4 mEq/L
   36 mg/dL
   107 mEq/L
   145 mEq/L
   31.6 %
   15.3 K/uL
        [image002.jpg]
                            [**2158-12-14**]  03:44 AM
   WBC
   15.3
   Hct
   31.6
   Plt
   304
   Cr
   1.5
   TropT
   0.19
   Glucose
   128
   Other labs: PT / PTT / INR:16.7/24.3/1.5, CK / CKMB /
   Troponin-T:[**Numeric Identifier 2758**]/57/0.19, ALT / AST:1692/3067, Alk Phos / T
   Bili:104/0.4, Albumin:2.9 g/dL, LDH:3705 IU/L, Ca++:7.7 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   60 year old woman with immunodeficiency on IVIG, COPD, dyslipidemia, ?
   h/o CVA, tobacco abuse and DM2 was found
   unresponsive.
   .
   # Altered Mental status:  Unclear etiology.  Could be secondary to
   SIRS. Urine was suspicous for UTI.  Need to rule out CVA.  Seizure is
   unlikely even though CKs are elevated.  Serum tox screen is negative.
   Worsened renal function raises the suspcion for renally cleared
   medications contributing to this.
   - appreciate neurology recs
   - LP results, prelim not consistent with infection/inflammation
   - MRA/DW to evaluate for CVA
   - cont Vanc, ceftriaxone, ampicillin and acyclovir
   - BCx, UCx, CSF culture.
   - early goal directed therapy, MAP > 65
   .
   # Fever/leukocytosis/elevated lactate:  ? sepsis.  ? urine source.
   - cont Antibiotics as above
   - follow up cultures as above
   .
   # Intubation:  ? airway protection.  CXR not suspicous for
   intrapulmonary process.
   - evaluate once mental status improves
   .
   # ARF:  Cr on [**2158-6-9**] was 0.8.  Unclear reason for renal dysfunction.
   No known history of recent contrast administration prior to today.
   Most likely due to prerenal etiology given recent confusion and unknown
   oral intake.
   - keep well hydrated
   - urine lytes
   - will hold meloxicam
   .
   # Elevated CK:  Unlcear etiology.  ? Recent seizure.  No known trauma
   and patient was found in her bed.
   - continue to trend
   .
   # Elevated LFTs: AST markedly elevated than ALT.  ? from muscle.
   -          trend LFTs
   -          Hep panel pends
   -          RUQ u/s pends
   .
   # Atrial fibrillation:  No known history.  Currently in sinus rhythm.
   -          ? need for anticoagulation given mental status change
   -          Talk with PCP [**Name Initial (PRE) 1960**] ? hx of Afib
   .
   # COPD: Cont home regimen.  ? h/o asthma.
   - cont advair, nebs.
   .
   # ? Parkinsons: cont sinemet
   .
   # Hypothyroidism: Cont levothyroxine
   .
   # Chronic back pain:
   - will hold pain meds while she has AMS
   .
   # Depression:
   -          cont home regimen
   .
   #Access
   - will attempt to place peripheral lines, if not PICC, no current need
   for CVL
   .
   # FEN: NPO for now; replete lytes prn
   .
   # PPX: SC heparin; PPI.
   .
   # Code: Full Code, confirmed with son
   .
   # Contact: [**Name (NI) **] [**Name (NI) 1495**] c [**Telephone/Fax (1) 2749**]  h [**Telephone/Fax (1) 2750**], daugter in law [**Doctor Last Name 335**]
   [**Telephone/Fax (1) 2751**]
   .
   # Dispo: ICU for now
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 .H/O PARKINSON'S DISEASE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-12-14**] 12:30 AM
   20 Gauge - [**2158-12-14**] 12:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-12-15 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2158-12-14**] 08:57 AM
   ECHO
 ULTRASOUND - At [**2158-12-14**] 11:36 AM
   LIVER U/S
 PICC LINE - START [**2158-12-14**] 06:09 PM
   comfirmed by CXR at 1900
 MULTI LUMEN - STOP [**2158-12-14**] 09:00 PM
   placed at outside institiution
   -[**Location (un) 839**] records in chart, PCP [**Name Initial (PRE) 1850**] (LM)
   -RUQ US normal
   -TEE, bubble study in AM
   -Low K, PO4, Mg- repleted. Ca also low (corrected 7.88)
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Percodan (Oral) (Oxycodone Hcl/Aspirin)
   Nausea/Vomiting
   Propoxyphene
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2158-12-14**] 08:58 AM
   Acyclovir - [**2158-12-14**] 11:09 PM
   Ceftriaxone - [**2158-12-15**] 12:25 AM
   Ampicillin/Sulbactam (Unasyn) - [**2158-12-15**] 04:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-12-14**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2158-12-14**] 10:20 PM
   Other medications:
   Acyclovir
   Lidocaine patch
   Colace
   Senna
   Asa
   Protonix
   Chlorhexidine
   Simvastatin
   Carbidopa-levodopa
   Thiamine
   Folic acid
   Buspirone
   Montelukast
   Albuterol
   Advair
   Tiotropium
   Levothyroxine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-12-15**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 75 (75 - 92) bpm
   BP: 105/48(60) {79/23(28) - 135/93(101)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  7,158 mL
                                                                  1,209 mL
   PO:
             TF:
   IVF:
                                                                  4,953 mL
                                                                  1,159 mL
   Blood products:
   Total out:
                                                                  1,957 mL
                                                                    308 mL
   Urine:
                                                                  1,957 mL
                                                                    308 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,201 mL
                                                                    901 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 382 (354 - 419) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 7.5 L/min
   Physical Examination
   Gen:  Intubated.  In no apparent distress. Alert, responds to verbal
   stimuli and follows commands
   HEENT:  PERRL, MMM, unable to assess JVP due to difficult neck anatomy.
   Heart:  S1S2 RRR, no MRG
   Lungs:  CTAB in anterior lung fields
   Abdomen:  midline surgical scars, obese, nondistended.  No appreciable
   organomegaly. Mild tenderness in RUQ, no rebound or guarding
   Ext:  WWP, new 1+ edema in all 4 ext, DP 2+ b/l
   Neuro. Normal muscle tone.  Plantars down going., no longer able to
   invoke clonus in R foot.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   9.7 g/dL
   115 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   20 mg/dL
   109 mEq/L
   142 mEq/L
   28.2 %
   14.9 K/uL
        [image002.jpg]
   Na 145 to 142
   TSH 0.75, T4 1.3
   MR: bilateral subacute cerebellar infarts.
   Mirco: Blood 12/10 pending,
   CSF GS no polys or organisms, cult pending
   ALT 873 to [**6-10**]
   AST 3497 to 3926
   AP 99 to 99
   Tbili 0.3 to 0.3
   LDH 3840 to 3960
   CK [**Numeric Identifier 2758**] to [**Numeric Identifier 2793**] to 9041
   CXR no consolidations.
                            [**2158-12-14**]  03:44 AM
                            [**2158-12-14**]  04:34 PM
                            [**2158-12-15**]  02:00 AM
   WBC
   15.3
   14.9
   Hct
   31.6
   28.2
   Plt
   304
   225
   Cr
   1.5
   0.9
   0.7
   TropT
   0.19
   Glucose
   128
   129
   115
   Other labs: PT / PTT / INR:19.6/37.6/1.8, CK / CKMB /
   Troponin-T:9041/57/0.19, ALT / AST:[**Telephone/Fax (1) 2797**], Alk Phos / T Bili:99/0.3,
   Albumin:2.9 g/dL, LDH:3960 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   60 year old woman with immunodeficiency on IVIG, COPD, dyslipidemia, ?
   h/o CVA, tobacco abuse and DM2 was found
   unresponsive.
   .
   # Altered Mental status:  Unclear etiology.  Could be secondary to
   SIRS. Seizure not witnessed even though CKs are elevated.  Serum tox
   screen is negative.  Worsened renal function raises the suspcion for
   renally cleared medications contributing to this. Current theory is
   that pt was confused over last week [**2-4**]  unknown process, OD on narcs
   (pt known to frequently overmedicate) causing hypotension /
   unresponsible leading to shock liver, ARF.
   - appreciate neurology recs.  Originially thought to have Bilateral
   cerebellar [**Doctor Last Name **]. However, this is very unlikely to have BL emboli
   strokes. MRA showed PCA arising from carotid and not posterior
   circulation making this even less likely. Article found showing similar
   MR finding in pt with leukoencephalopathy [**2-4**] histocytosis. This is
   know the suspected underlying process.
   - However acuity of onset still no consistant with histocytosis
   therefore another process is possible
   - LP results, prelim not consistent with infection/inflammation
   - d/c Vanc, ceftriaxone, ampicillin as afebrile and no sign of bac
   infection in CSF.
   - continue acyclovir until HSV PCR negative. Increased dose to 500mg IV
   q8h as per pharmacy
   - BCx, UCx, CSF culture.
   - early goal directed therapy, MAP > 65
   .
   # Fever/leukocytosis/elevated lactate:  ? sepsis.  ? urine source.  UA
   not overtly positive. U cult never sent? Will resend UA and cult. Has
   remained afebrile, VSS. Leukocytosis likely stress response
   -d/c  Antibiotics as above
   - follow up cultures as above
   .
   # Intubation:  ? airway protection.  CXR not suspicous for
   intrapulmonary process.
   - MS improved this am. Was extubated without diffculty.
   .
   # ARF:  Cr on [**2158-6-9**] was 0.8.  Unclear reason for renal dysfunction.
   No known history of recent contrast administration prior to today.
   Most likely due to prerenal etiology given recent confusion and unknown
   oral intake. Cr back to baseline
   - keep well hydrated
   - will hold meloxicam
   .
   # Elevated CK:  Unlcear etiology.  ? Recent seizure.  No known trauma
   and patient was found in her bed.
   - continue to trend. They are decreasing.
   .
   # Elevated LFTs: AST markedly elevated than ALT.  ? from muscle.
   -          trend LFTs
   -          Hep panel pends
   -          RUQ u/s pends
   .
   # Atrial fibrillation:  No known history.  Currently in sinus rhythm.
   -          ? need for anticoagulation given mental status change
   -          Talk with PCP [**Name Initial (PRE) 1960**] ? hx of Afib
   -          No longer believe embolic stroke occurred
   -          TEE with bubble study negative
   .
   # COPD: Cont home regimen.  ? h/o asthma.
   - cont advair, nebs.
   .
   # ? Parkinsons: cont sinemet
   .
   # Hypothyroidism: Cont levothyroxine
   .
   # Chronic back pain:
   -          will hold pain meds while she has AMS
   -          lidoderm patch
   .
   # Depression:
   -          cont home regimen
   .
   #Access
   -PICC
   .
   # FEN: soft today, reg diet tomorrow
   .
   # PPX: SC heparin; PPI.
   .
   # Code: Full Code, confirmed with son
   .
   # Contact: [**Name (NI) **] [**Name (NI) 1495**] c [**Telephone/Fax (1) 2749**]  h [**Telephone/Fax (1) 2750**], daugter in law [**Doctor Last Name 335**]
   [**Telephone/Fax (1) 2751**]
   .
   # Dispo: to floor tonight.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 .H/O PARKINSON'S DISEASE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 RHABDOMYOLYSIS
 LIVER FUNCTION ABNORMALITIES
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 .H/O PARKINSON'S DISEASE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-12-14**] 12:32 AM
   PICC Line - [**2158-12-14**] 06:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Neuro recs: to get EEG to r/o seizure / encephalitis
   MR [**First Name (Titles) **] [**Last Name (Titles) **] to eval for granuloma or other brain pathology
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2683**], MD
   on:[**2158-12-15**] 23:39 ------